US09371262B2
(E)-12-methyl-3,4,7,8,9,10,13,13a-octahydro-1H-pyrido[1,2-a]azecin-6(2H)-one
Following the general procedure as described in Example 17, 2-(prop-1-en-2-yl)cyclohexanone (0.88 g, 6.38 mmol), 2,3,4,5-tetrahydropyridine (0.64 g, 7.65 mmol), and SnCl4 (1.66 g, 6.38 mmol) in 1,2-dichloroethane (65 ml) were reacted to give the title product as a colorless liquid (0.97 g, 69% yield).

reactant | 2-(prop-1-en-2-yl)cyclohexanone | 6.38 mmol, 0.88 g | C=C(C)C1C(CCCC1)=O | C9H14O
reactant | 2,3,4,5-tetrahydropyridine | 7.65 mmol, 0.64 g | N=1CCCCC1 | C5H9N
reactant | SnCl4 | 6.38 mmol, 1.66 g | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 65 ml | ClCCCl | C2H4Cl2
product | (E)-12-methyl-3,4,7,8,9,10,13,13a-octahydro-1H-pyrido[1,2-a]azecin-6(2H)-one | 0.97 g, 69% yield | C/C=1/CC2N(C(CCCC/C1)=O)CCCC2 | C14H23NO
